US08461179B1
A solution of 3-(3-amino-6-chloro-2-fluorophenyl)-7-chloro-1-ethyl-1,6-naphthyridin-2(1H)-one (0.45 g, 1.150 mmol) in dioxane (5 mL) was treated with methylamine (40% in water, 7.14 g, 92 mmol) and heated at 100° C. overnight. The mixture was cooled to RT, treated with brine and extracted with EtOAc (2×). The combined organics were dried over Na2SO4, concentrated to dryness and purified via silica gel chromatography (MeOH/DCM) to afford 3-(3-amino-6-chloro-2-fluorophenyl)-1-ethyl-7-(methylamino)-1,6-naphthyridin-2(1H)-one (350 mg, 88% yield) as a white amorphous solid. 1H NMR (500 MHz, DMSO-d6): δ 8.41 (s, 1H), 7.74 (s, 1H), 7.07 (q, J=4.9 Hz, 1H), 7.03 (dd, J=8.7, 1.3 Hz, 1H), 6.77 (t, J=9.0 Hz, 1H), 6.25 (s, 1H), 5.30 (s, 2H), 4.15-4.13 (q, J=7.0 Hz, 2H), 2.87 (d, J=4.9 Hz, 3H), 1.21 (t, J=7.0 Hz, 3H); MS (ESI) m/z: 347.1 [M+H]+.

reactant | 3-(3-amino-6-chloro-2-fluorophenyl)-7-chloro-1-ethyl-1,6-naphthyridin-2(1H)-one | 1.150 mmol, 0.45 g | NC=1C(=C(C(=CC1)Cl)C=1C(N(C2=CC(=NC=C2C1)Cl)CC)=O)F | C16H12Cl2FN3O
reactant | methylamine | 92 mmol, 7.14 g | CN | CH5N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | 3-(3-amino-6-chloro-2-fluorophenyl)-1-ethyl-7-(methylamino)-1,6-naphthyridin-2(1H)-one | 350 mg, 88% yield | NC=1C(=C(C(=CC1)Cl)C=1C(N(C2=CC(=NC=C2C1)NC)CC)=O)F | C17H16ClFN4O
